US06255327B1
A solution of 7,4 g of 2-(2-methoxyphenyl)amino-1-phenyl-ethan-1-one and 11,3 ml of dimethyl acetylenedicarboxylate in 150 ml of toluene is refluxed for 12 hours and then the solvent is eliminated in vacuo. The residue remaining is taken up in ethyl acetate and washed with water. After the organic phase has been dried the solvent is distilled off in vacuo and the residue remaining is chromatographed on silica gel (n-hexane:ethyl acetate 80:20). 9,4 g of 2,3-di(methoxycarbonyl)-1-(2-methoxyphenyl)-4-phenyl-pyrrole are obtained as a colourless oil.

reactant | 2-(2-methoxyphenyl)amino-1-phenyl-ethan-1-one | 7,4 g | COC1=C(C=CC=C1)NCC(=O)C1=CC=CC=C1 | C15H15NO2
reactant | dimethyl acetylenedicarboxylate | 11,3 ml | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-di(methoxycarbonyl)-1-(2-methoxyphenyl)-4-phenyl-pyrrole | 9,4 g | COC(=O)C=1N(C=C(C1C(=O)OC)C1=CC=CC=C1)C1=C(C=CC=C1)OC | C21H19NO5
